US08664401B2
Step C: 4-[(4-bromo-phenoxy)-difluoro-methyl]-cyclohexanone
4 N HCl (4.23 mL, 16.9 mmoles) was added to a solution of 8-((4-bromophenoxy)difluoromethyl)-1,4-dioxaspiro[4.5]decane (1230 mg, 3.387 mmoles) in acetone (11.3 mL, 0.3M) and was allowed to stir overnight at room temperature. The reaction mixture was concentrated onto silica gel and purified via chromatography (9:1 heptane:ethyl acetate to 3:7 heptane:EtOAc over 40 minutes followed by 100% EtOAc for 10 minutes) afforded the desired material (1081 mg, 97.13%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.27 (br. s., 2H) 1.39-1.51 (m, 2H) 1.96-2.10 (m, 5H) 3.32-3.38 (m, OH) 3.47-3.55 (m, 1H) 7.05-7.13 (m, 2H) 7.45-7.53 (m, 2H)

reactant | HCl | 16.9 mmoles, 4 N, 4.23 mL | Cl | ClH
reactant | 8-((4-bromophenoxy)difluoromethyl)-1,4-dioxaspiro[4.5]decane | 3.387 mmoles, 1230 mg | BrC1=CC=C(OC(C2CCC3(OCCO3)CC2)(F)F)C=C1 | C15H17BrF2O3
solvent | acetone | 0.3M, 11.3 mL | CC(=O)C | C3H6O
product | 4-[(4-bromo-phenoxy)-difluoro-methyl]-cyclohexanone | 1081 mg, 97.13% | BrC1=CC=C(OC(C2CCC(CC2)=O)(F)F)C=C1 | C13H13BrF2O2
